US08252793B2
To a suspension of N-methylpiperazine-1-carboxamide hydrochloride (6 g, 33.52 mmol) and K2CO3 (9.26 g, 67.0 mmol) in acetonitrile (100 mL) was added bromopropionic acid tert-butyl ester (8.4 g, 40.2 mmol). The reaction mixture was stirred at reflux for 12 h, cooled to room temperature and partitioned in ethyl acetate (200 mL) and water (100 mL). Organic layer was separated, dried (MgSO4), and concentrated to give tert-butyl 3-(4-(methylcarbamoyl)piperazin-1-yl)propanoate as an oil which was dissolved in a mixture of dichloromethane (100 mL) and TFA (trifluoroacetic acid) (20 mL) and then stirred overnight. The volatiles were removed under vacuum. The residue was dissolved in methanol, 1N hydrogen chloride in ether was added, and then the solution was concentrated to give 3-(4-(methylcarbamoyl)piperazin-1-yl)propanoic acid as a solid. LCMS 216 (M+1)

reactant | N-methylpiperazine-1-carboxamide hydrochloride | 33.52 mmol, 6 g | Cl.CNC(=O)N1CCNCC1
reactant | K2CO3 | 67.0 mmol, 9.26 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromopropionic acid tert-butyl ester | 40.2 mmol, 8.4 g | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | tert-butyl 3-(4-(methylcarbamoyl)piperazin-1-yl)propanoate | CNC(=O)N1CCN(CC1)CCC(=O)OC(C)(C)C | C13H25N3O3
